US08076516B2
To a solution of 2,2,2-trifluoro-N-(2-(3-((1-hydroxycycloheptyl)ethynyl)phenoxy)ethyl)acetamide (1.07 g, 2.9 mmol) in MeOH (20 mL) was added saturated aqueous K2CO3 (ca. 10 mL). The reaction mixture was stirred vigorously and heated at 50° C. for 2 h. After removal of the volatiles by concentration under reduced pressure, the mixture was partitioned into EtOAc and water. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. Purification by flash chromatography (10% 7M NH3 in MeOH-EtOAc) gave 1-((3-(2-aminoethoxy)phenyl)ethynyl)cycloheptanol as a pale yellow solid. (Yield 0.70 g, 88%): 1H NMR (400 MHz, CDCl3) δ 7.19 (t, J=8.0 Hz, 1H), 7.01 (dt, J=8.0, 0.8 Hz, 1H), 6.95 (dd, J=2.8, 1.6 Hz, 1H), 6.85 (ddd, J=−8.4, 2.4, 1.2 Hz, 1H), 3.97 (t, J=4.8 Hz, 2H), 3.07 (br s, 2H), 2.08-2.13 (n4, 2H), 1.87-1.94 (m, 2H), 1.59-1.74 (m, 1H).

reactant | 2,2,2-trifluoro-N-(2-(3-((1-hydroxycycloheptyl)ethynyl)phenoxy)ethyl)acetamide | 2.9 mmol, 1.07 g | FC(C(=O)NCCOC1=CC(=CC=C1)C#CC1(CCCCCC1)O)(F)F | C19H22F3NO3
reactant | K2CO3 | ca. 10 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 20 mL | CO | CH4O
product | 1-((3-(2-aminoethoxy)phenyl)ethynyl)cycloheptanol | NCCOC=1C=C(C=CC1)C#CC1(CCCCCC1)O | C17H23NO2
